US09085570B2
To a solution of 4-aminocyclohexan-1-ol (25 g, 217.06 mmol, 1.00 equiv) and di-tert-butyl dicarbonate (47.39 g, 217.14 mmol, 1.00 equiv) in toluene (250 mL) maintained under an inert atmosphere of nitrogen was added an aqueous sodium hydroxide (10.43 g, 260.77 mmol, 1.20 equiv) solution dropwise with stirring. The resulting solution was stirred overnight at room temperature. The solid was collected by filtration then dried to give 40 g (86%) of tert-butyl N-(4-hydroxycyclohexyl)carbamate as a white solid.

reactant | 4-aminocyclohexan-1-ol | 217.06 mmol, 25 g, 1.00 equiv | NC1CCC(CC1)O | C6H13NO
reactant | di-tert-butyl dicarbonate | 217.14 mmol, 47.39 g, 1.00 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 260.77 mmol, 10.43 g, 1.20 equiv | [OH-].[Na+]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl N-(4-hydroxycyclohexyl)carbamate | 40 g, 86% | OC1CCC(CC1)NC(OC(C)(C)C)=O | C11H21NO3
